US07888362B2
0.30 g of sodium hydride (60% oily) was added to a dimethylformamide (20 ml) solution of 1.0 g of 1H-quinolin-2-one while being stirred under ice-cooling and stirred at room temperature for 0.5 hour, and after that 1.6 ml of 1-bromo-4-chlorobutane was added and stirred at room temperature for 14 hours. Water was added to the reaction solution, which was then extracted with ethyl acetate and, after washed with water, dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1), and 1.02 g of 1-(4-chlorobutyl)-1H-quinolin-2-one was obtained in the form of colorless oil.

reactant | sodium hydride | 0.30 g | [H-].[Na+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 1H-quinolin-2-one | 1.0 g | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
reactant | 1-bromo-4-chlorobutane | 1.6 ml | BrCCCCCl | C4H8BrCl
solvent | Water | O | H2O
product | 1-(4-chlorobutyl)-1H-quinolin-2-one | 1.02 g | ClCCCCN1C(C=CC2=CC=CC=C12)=O | C13H14ClNO
